US08138181B2
Step D: Preparation of (trans)-naphthalen-2-ylmethyl 3-hydroxy-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)piperidine-1-carboxylate:
2-(7-(2-Methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-ol (0.10 g, 0.309 mmol) was slurried in DMA (1.0 mL) and treated with Cs2CO3 (0.201 g, 0.618 mmol). After 10 minutes, naphthalen-2-ylmethyl 7-oxa-3-azabicyclo[4.1.0]heptane-3-carboxylate (0.100 g, 0.355 mmol) was added. The reaction was warmed to 90° C. and stirred for 40 hours. The reaction mixture was cooled to ambient temperature then added dropwise into saturated NH4Cl (5 mL). Chloroform (25 mL) was added and the layers were separated. The aqueous layer was washed with CHCl3 and the combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography, eluting with a gradient from 1 to 20% (6% NH4OH in MeOH)/ethyl acetate to provide the desired product (111 mg). MS ESI (+) m/z 619.2 (M+1) detected.

reactant | 2-(7-(2-Methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-ol | 0.309 mmol, 0.10 g | COCCOC1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)O | C19H17N3O3
reactant | Cs2CO3 | 0.618 mmol, 0.201 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | naphthalen-2-ylmethyl 7-oxa-3-azabicyclo[4.1.0]heptane-3-carboxylate | 0.355 mmol, 0.100 g | C12CN(CCC2O1)C(=O)OCC1=CC2=CC=CC=C2C=C1 | C17H17NO3
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | DMA | 1.0 mL | CC(=O)N(C)C | C4H9NO
solvent | Chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | (trans)-naphthalen-2-ylmethyl 3-hydroxy-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)piperidine-1-carboxylate | 111 mg | O[C@@H]1CN(CC[C@H]1OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C(=O)OCC2=CC1=CC=CC=C1C=C2 | C36H34N4O6
